US09334267B2
2-(1-(Trifluoromethyl)cyclopropyl)ethanamine hydrochloride
Treat a solution of 2-(1-(trifluoromethyl)cyclopropyl)acetonitrile (2.2 g, 14.7 mmol) in THF (60 mL), under N2, with BH3 (10 M in dimethyl sulfide, 3 mL, 30 mmol) and heat at 70° C. overnight. Cool the mixture to 0° C., treat dropwise with methanolic HCl, concentrate to dryness, dissolve in MeOH, re-concentrate and treat the residue with EtOAc. Collect the solids via filtration and dry to afford the title compound (1.1 g, 40% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.05 (s, 3H), 2.87 (t, J=8.4 Hz, 2H), 1.90-1.86 (m, 2H), 0.96-0.93 (m, 2H), 0.82-0.81 (m, 2H).

reactant | 2-(1-(trifluoromethyl)cyclopropyl)acetonitrile | 14.7 mmol, 2.2 g | FC(C1(CC1)CC#N)(F)F | C6H6F3N
reactant | HCl | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | dimethyl sulfide | CSC | C2H6S
product | 2-(1-(Trifluoromethyl)cyclopropyl)ethanamine hydrochloride | 1.1 g, 40% yield | Cl.FC(C1(CC1)CCN)(F)F | InChI=1S/C6H10F3N.ClH/c7-6(8,9)5(1-2-5)3-4-10;/h1-4,10H2;1H
